US05569310
Preparation of 2-(4-Benzyloxyphenyl)ethanol
To a flask equipped with a magnetic stirrer, reflux condenser and nitrogen inlet was added 13.8 grams of 2-(4-hydroxphenyl)ethanol, 14.5 grams of anhydrous potassium carbonate, 33.0 grams of tetrabutylammonium bromide, 12 mL of benzyl chloride and 200 mL of acetone. The reaction mixture was heated at reflux for 3 days, and then cooled to room temperature and filtered. The filtrate was concentrated in vacuo, diluted with 500 mL of dichloromethane, and washed with 2% aqueous sodium hydroxide and then with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The resulting product was purified by chromatography on silica gel, eluting with dichloromethane, to yield 20.0 grams of the desired product as a white solid.

reactant | potassium carbonate | 14.5 grams | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 12 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | acetone | 200 mL | CC(=O)C | C3H6O
catalyst | tetrabutylammonium bromide | 33.0 grams | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(4-Benzyloxyphenyl)ethanol | 20.0 grams | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCO | C15H16O2
